US07323460B2
To a solution of 4-chloro-2-(hydroxymethyl)-N-methylbenzamide (5.81 g, 29.2 mmol) in methylene chloride (200 mL) cooled in an ice bath, was added triethylamine (5.10 mL, 36.6 mmol) and methanesulfonyl chloride (2.50 mL, 32.3 mmol). After 90 min, the reaction was diluted with chloroform and partitioned with aqueous sodium bicarbonate and brine. After extracting three times with chloroform, the combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo. To this residue was added DMF (50 mL) sodium azide (0.35 g, 5.4 mmol) and azidotrimethylsilane (2.6 mL, 19.6 mmol) portionwise with stirring at 40° C. for three days. The reaction was concentrated in vacuo and partitioned between chloroform and aqueous sodium bicarbonate. After extracting three times with chloroform, the combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography eluting with a 30-50% ethyl acetate/hexane gradient. Fractions were concentrated in vacuo to afford 2-(azidomethyl)-4-chloro-N-methylbenzamide.

reactant | 4-chloro-2-(hydroxymethyl)-N-methylbenzamide | 29.2 mmol, 5.81 g | ClC1=CC(=C(C(=O)NC)C=C1)CO | C9H10ClNO2
reactant | triethylamine | 36.6 mmol, 5.10 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 32.3 mmol, 2.50 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | DMF | 5.4 mmol, 50 mL, 0.35 g | CN(C)C=O | C3H7NO
reactant | azidotrimethylsilane | 19.6 mmol, 2.6 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(azidomethyl)-4-chloro-N-methylbenzamide | N(=[N+]=[N-])CC1=C(C(=O)NC)C=CC(=C1)Cl | C9H9ClN4O
